* Z:\mnt\spice-netlists\LT8580_TA01A.asc
L1 IN N001 15µ
D1 N001 OUT MBRS130L
C1 OUT 0 4.7µ
C2 0 N006 3300p
R1 N005 0 56.2K
C3 N003 0 .1µ
V1 IN 0 5
R2 OUT N004 130K
Rload OUT 0 60
XU1 N004 N006 IN N001 N002 N005 N003 MP_01 0 LT8580
R3 IN N002 10K
C4 IN 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 15m startup
* LT8580 - Boost/SEPIC/Inverting DC/DC Converter with 1A, 65V Switch, Soft-Start and Synchronization\n1.5MHz, 5V to 12V Boost Converter\nInput: 3.5V to 6V     Output: 12V @ 200mA, Fsw = 1MHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8580.sub
.backanno
.end
