* Z:\mnt\spice-netlists\LT8582_TA01A.asc
V1 IN 0 5
L1 IN N001 4.7µ
D1 N001 N002 1N5818
C1 N002 0 10µ
R1 N002 N003 130K
R2 N010 0 53.6K
C2 N008 0 .002µ
C3 N007 0 4700p
C4 OUT1 0 10µ
XU1 N001 IN N006 N005 N007 N003 N016 N014 NC_01 N013 IN N017 N017 NC_02 N015 N011 N012 N009 0 N008 N010 N004 N009 N001 0 LT8582
R3 IN N004 230K
R4 IN N006 100K
M§Q1 OUT1 N005 N002 N002 FDS6575
R5 N002 N005 6.04K
R6 N011 0 53.6K
C5 N012 0 .002µ
C6 N014 0 2200p
R7 IN N013 100K
R8 IN N015 230K
L2 IN N017 4.7µ
C7 N017 N018 2.2µ
D2 N018 0 1N5818
L3 OUT2 N018 4.7µ
R9 OUT2 N016 143K
C8 OUT2 0 10µ
C9 IN 0 4.7µ x2
Rload1 OUT1 0 21.8
Rload2 OUT2 0 21.8
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
K1 L2 L3 1
* LT8582 - Dual 3A Boost/Inverting/SEPIC DC/DC Converter with Fault Protection\n1.5MHz +5V to ±12V Dual Converter\nInput: 5V±10%    Output: ±12V @ 550mA (14.4W Max Total Output Power)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* +12V @ 550mA
* -12V @ 550mA
.lib LT8582.sub
.backanno
.end
