* Z:\mnt\spice-netlists\LT8705_TA02A.asc
XU1 N020 0 N009 N025 N027 N021 N036 N034 N031 N037 MP_01 N029 0 N006 N023 N015 N016 N018 N003 MP_02 N002 N017 N012 MP_03 N026 N030 N032 N028 SCAPS SCAPS N004 LOAD N001 N001 N023 N022 0 N035 0 LT8705
V1 IN 0 PWL(0 0 20u 12 3.5m 12 3.6m 0)
C1 N001 0 100µ x2
R1 N005 N017 2
R2 N007 N015 2
R3 N009 0 3m
C2 N002 N012 0.22µ
C3 N016 N003 0.22µ
R4 SCAPS N021 115K
R5 N021 0 10K
R6 N013 N023 4
C4 N023 0 4.7µ x2
R7 N022 N025 100K
R8 N020 N001 71.5K
R9 N020 0 20K
R10 0 N029 124K
C5 N033 0 15n
R11 N034 N033 14.3K
C6 N034 0 220p
C7 N031 0 5n
M§Q1 LOAD N005 N002 N002 IRLR2908
L1 N002 N003 2.2µ
M§Q2 N002 N006 N009 N009 IRLR2908
M§Q3 N003 N007 N009 N009 IRLR2908
M§Q4 N004 N018 N003 N003 IRLR2908
D1 N013 N012 MBRS1100
D2 N013 N016 MBRS1100
C8 LOAD 0 22µ x3
R12 N001 LOAD 25m
R13 N001 N027 113K
R14 N027 0 20K
C9 N025 0 4.7µ
D3 N024 N001 BZX84C15L
R15 N024 0 1K
Q5 N022 N024 0 0 2N3904
D4 IN N001 SS24
C10 SCAPS 0 100µ x2
C11 N004 0 22µ x3
R16 N004 SCAPS 25m
R17 N036 0 47.5K
R18 N035 0 24K
C12 N036 0 100n
C13 N035 0 100n
C14 SCAPS N008 3m
C15 N008 N010 3m
C16 N010 N011 3m
C17 N011 N014 3m
C18 N014 N019 3m
C19 N019 0 3m
Rload LOAD 0 12
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5.5m startup
* LT8705 - 80V Vin and Vout Synchronous 4-Switch Buck- Boost DC/DC Controller\nBi-Directional Buck-Boost Supercapacitor Backup Supply\nInput: 36V to 80V       Output: SCAPs 15V @ 1A, Load Holdup 8V @ 4A
* Note:\n  A smaller SS capacitor, C7, and SCAPS are being used to reduce simulation time. Typical SS capacitor value should be 1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8705.sub
.backanno
.end
