* Z:\mnt\spice-netlists\LT3686_TA01A_DC1323A.asc
XU1 IN OUT N006 N005 N003 IN 0 N001 N004 N002 0 LT3686
L1 N002 OUT 6.8µ
D1 N004 N002 MBRS140
C1 N001 N002 .22µ
R1 OUT N006 31.6K
R2 N006 0 10K
C2 OUT 0 22µ
R3 N003 0 15.4K
C3 N005 0 .001µ
V1 IN 0 12
Rload OUT 0 2.75
C4 IN 0 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3686 - 37V, 1.2A, Step-Down Regulator in 3mm x 3mm DFN\n3.3V Step-Down Converter\nInput: 6V to 37V       Output: 3.3V @ 1.2A
.lib LT3686.sub
.backanno
.end
