* Z:\mnt\spice-netlists\LT3791_TA02A_DC1666A.asc
XU1 N026 N028 N025 N022 N020 N025 N017 N014 N007 N002 N005 N003 N001 N012 N010 N015 0 N018 N019 MP_01 N016 N008 MP_02 N013 N006 N004 N021 0 MP_03 0 N030 MP_04 N011 0 N023 N029 N024 N009 LT3791
C1 N028 0 22n
C2 N029 0 22n
V1 IN 0 PWL(0 0 .1m 24)
R1 N002 N003 3m
R2 N002 N007 332K
R3 N007 0 121K
R4 N003 N005 50
C3 N002 N005 470n
C4 N001 0 4.7µ
R5 N002 N009 1Meg
R6 N009 0 54.9K
R7 N023 0 86.6K
C5 N025 0 .1µ
M§Q1 N003 N012 N015 N015 RJK0651DPB
M§Q2 N015 N018 N021 N021 RJK0651DPB
L1 N015 N016 10µ
C6 N010 N015 .1µ
C7 N008 N016 .1µ
R8 N021 0 4m
R9 N006 N024 1Meg
R10 N024 0 44.2K
R11 N006 N004 50m
D1 N004 N027 LUW-W5AP N=7
C8 N006 0 4.7µ x4
R12 N001 N022 200K
R13 N001 N020 200K
C9 N003 0 10µ
L2 IN N002 1µ
C10 N002 0 100µ
V2 N026 0 PWL(2m 2 2.5m 0 3m 0 3.5m 2)
M§Q3 N016 N019 N021 N021 RJK0451DPB
M§Q4 N006 N013 N016 N016 RJK0451DPB
M§Q5 N027 N030 0 0 Si2318CDS
D2 N001 N008 BAT46WJ
D3 N001 N010 BAT46WJ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 7m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3791 - 60V 4-Switch Synchronous Buck-Boost LED Driver Controller\n98% Efficient 50W Buck-Boost LED Driver\nInput: 4.7V to 58V       Output: 25V LED @ 2A
.lib LT3791.sub
.backanno
.end
