* Z:\mnt\spice-netlists\LT3955_TA01A_DC2020A.asc
C1 N004 0 1µ
L1 IN N001 22µ
R1 N002 N006 1Meg
R2 N006 0 16.9K
D1 N001 N002 PDS5100
R3 N002 N008 .82
C2 N002 0 2.2µ x4
V1 IN 0 PWL(0 0 .2m 12)
R4 IN N003 499K
R5 N003 0 165K
C3 N014 0 4700p
C4 N013 0 .022µ
R6 N009 0 28.7K
D2 N008 N011 LXHL-BW02 N=19
C5 N015 0 47n
M§Q1 N011 N010 0 0 Si2318CDS
V2 N012 0 4
R7 N012 N013 124K
R8 IN N007 1Meg
R9 N007 0 147K
C6 IN 0 4.7µ
XU1 N005 N015 NC_01 N013 N009 N003 N004 IN N001 N010 N010 N006 N008 N002 N014 N007 0 0 0 LT3955
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 26m startup
* LT3955 - 60Vin LED Converter with Internal PWM Generator\n94% Efficiency 20W Boost LED Driver with Internal PWM Dimming\nInput: 5V to 60V      Output: 67V LED String @ 300mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LT3955.sub
.backanno
.end
