* Z:\mnt\spice-netlists\LT3975_TA01A_DC1736A.asc
R1 N004 0 78.7K
C1 N002 0 .005µ
V1 IN 0 12
L1 N005 OUT 3.3µ
C3 N003 N005 .47µ
C4 OUT 0 47µ
R2 OUT N006 1Meg
R3 N006 0 576K
C5 OUT N006 10p
Rload OUT 0 1.32
XU1 N006 N002 OUT N003 N005 MP_01 MP_02 MP_03 MP_04 IN MP_05 MP_06 IN N004 N001 MP_07 0 LT3975
D1 0 N005 B560C
C2 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* LT3975 - 42V 2.5A 2MHz Step-Down Switching Regulator with 2.7µA Quiescent Current\n3.3V Step-Down Converter\nInput: 4.3V to 42V       Output: 3.3V @ 2.5A
* Note:\n  A smaller value SS capacitor is used to reduce simulation time. Typical value should be 10nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3975.sub
.backanno
.end
