* Z:\mnt\spice-netlists\LT3758_TA06A_DC1342B.asc
V1 IN 0 48
R1 IN N003 232K
C1 P001 0 .01µ
R2 N006 0 42.2K
XU1 N009 N010 P001 N006 MP_01 N007 N005 N004 N003 IN 0 LT3758
R3 N003 0 20K
C2 IN 0 100µ
M§Q1 N001 N005 N007 N007 SI7454DP
R4 N007 0 20m
C3 0 N004 4.7µ
L1 IN N001 47µ
C4 N002 N001 4.7µ
D1 N002 OUT PDS5100
C5 OUT 0 22µ
R5 OUT N010 280K
R6 N010 0 20K
Rload OUT 0 24
L2 0 N002 47µ
R8 N008 N009 30.9K
C6 N008 0 4.7n
C7 OUT 0 3.3µ
C8 IN 0 2.2µ
C9 N009 0 1000p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* Note:\n  A smaller SS capacitors is being used to reduce simulation time. The typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* LT3758 - High Input Voltage, Boost, Flyback, SEPIC and Inverting Controller\nHigh Efficiency SEPIC Converter\nInput: 18V to 72V   Output: 24V @ 1A, Fsw: 300kHz
K L1 L2 1
.tran 2.5m startup
.lib LT3758.sub
.backanno
.end
