* Z:\mnt\spice-netlists\LT8709_TA06A_NegBoost.asc
XU1 N010 N011 N014 NC_01 N013 IN N004 INTVCC IN N007 N005 INTVCC 0 IN N006 N008 INTVCC N009 MP_02 IN LT8709
V1 0 IN 7
L1 N001 0 2.2µ
R1 IN N004 7m
R2 OUT N010 130K
C1 0 OUT 200µ
C2 N011 IN 100p
C3 N012 IN 2.2n
R3 N011 N012 37.4K
C4 N014 IN 10n
C5 N013 IN 68n
R4 N009 IN 118K
R5 N008 IN 10K
R6 0 N008 13.3K
C6 INTVCC IN 2.2µ
C7 IN INTVCC 2.2µ
R7 N006 IN 2m
C8 0 IN 200µ
C9 0 IN 330µ
M§Q1 N002 N003 N004 N004 Si4835DY
M§Q2 N001 N005 N006 N006 BSC0901NSI
L2 N002 OUT 2.2µ
C10 N002 N001 22µ
C11 N003 N007 0.47µ
R8 N003 N004 499
D1 N003 N004 1N5817
C12 0 OUT 330µ
Rload 0 OUT 2.7
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
K1 L1 L2 0.97
* LT8709 - Negative Input Synchronous Multi-Topology DC/DC Controller\nNegative Boost Regulator with Output Current Monitor and Power Good Indication\nInput: -4.5V to -9V       Output: -12V @ 4.5A, Fsw = 300kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8709.sub
.backanno
.end
