* Z:\mnt\spice-netlists\LT8709_TA02A_NegBuck.asc
XU1 N010 N011 N014 NC_01 N013 N002 OUT 0 N008 N003 N004 N007 0 IN N005 N006 N007 N009 MP_02 IN LT8709
V1 0 IN 24
L1 N002 N001 7.3µ
R1 N002 OUT 4m
R2 OUT N010 33K
R3 N010 0 4.99K
C1 OUT 0 66µ
C2 N011 IN 100p
C3 N012 IN 2.2n
R4 N011 N012 5.9K
C4 N014 IN 10n
C5 N013 IN 68n
R5 N009 IN 143K
R6 N006 IN 10K
R7 0 N006 62.5K
C6 N007 IN 2.2µ
C7 0 N008 2.2µ
R8 N005 IN 2m
C8 0 IN 60µ
C9 0 IN 120µ
C10 0 OUT 150µ
M§Q1 N001 N003 0 0 FDS4685
M§Q2 N001 N004 N005 N005 BSC027N04LS
C11 0 IN 2.2µ
Rload OUT 0 1.4
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT8709 - Negative Input Synchronous Multi-Topology DC/DC Controller\nNegative Buck Regulator with Output Current Monitor and Power Good Indication\nInput: -16V to -30V       Output: -12V @ 8.5A, Fsw = 250kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8709.sub
.backanno
.end
