* Z:\mnt\spice-netlists\LT8331_TA04_BOOST.asc
XU1 N002 MP_01 IN MP_02 N003 MP_03 OUT MP_04 N004 N005 N006 0 MP_05 N001 MP_06 MP_07 0 LT8331
C1 N006 0 10n
R1 N005 0 63.4K
V1 IN 0 48
L1 N001 IN 100µ
R2 IN N002 1Meg
R3 N002 0 59K
D1 N001 OUT RB058L150
R4 OUT N004 1Meg
R5 N004 0 13.3K
Rload OUT 0 2000
C4 N003 0 1µ
C5 IN 0 4.7µ
C2 OUT 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* LT8331 - Low IQ Boost/SEPIC/Flyback/Inverting DC/DC Converter with 500mA, 140V Switch\n120V Boost Converter\nInput: 36V to 72V     Output: 120V @ 60mA, Fsw = 450KHz
* Note:\n  A smaller SS capacitor is being used to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LT8331.sub
.backanno
.end
